US07576099B2
Preparation of 3-methyl-4-(3,3,3-trifluoroprop-1-ynyl)benzoic acid
The method is based upon a procedure detailed by Yoneda et al in Bulletin Chemical Society Japan 1990, 63, 2124-2126. A solution of n-butyl lithium (2.5M in hexanes; 1 eq) was added carefully to a solution of 3,3,3-trifluoroprop-1-yne (1 eq) in THF at −78° C. under nitrogen. The mixture was stirred at −78° C. for 30 min then a solution of ZnCl2 (3 eq) in THF was added slowly. The mixture was allowed to warm to room temperature, stirred for 30 min then Pd(Ph3P)4 (5 mol %) was added, followed by 4-iodo-3-methylbenzoic acid (0.5 eq). The mixture was heated to 50° C. and stirred for 15 h, then heated further to 80° C. for 5 h, and finally at 100° C. overnight. After allowing to cool to room temperature the mixture was concentrated under vacuum to a crude residue. The residue was purified by column chromatography on silica gel to give the product as a solid. m/z=227 (M−1).

reactant | n-butyl lithium | 2.5M, 1 eq | C(CCC)[Li]
reactant | 3,3,3-trifluoroprop-1-yne | 1 eq | FC(C#C)(F)F | C3HF3
reactant | 4-iodo-3-methylbenzoic acid | 0.5 eq | IC1=C(C=C(C(=O)O)C=C1)C | C8H7IO2
solvent | THF | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 3 eq | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyl-4-(3,3,3-trifluoroprop-1-ynyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C#CC(F)(F)F | C11H7F3O2
